US07750040B2
A solution of (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (67 mg, 0.30 mmol), TBTU (106 mg, 0.33 mmol) and ethyl-diisopropylamine (169 μL, 0.99 mmol) in DMF (2 mL) is allowed to stand at rt for 10 min. A solution of 4-aminomethyl-2,6-dimethyl-phenol (45 mg, 0.30 mmol) in DMF (0.5 mL) is added and the mixture is allowed to stand at rt for 3 h. After the addition of formic acid (0.2 mL) the mixture is separated by HPLC to afford (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3,5-dimethyl-benzylamide (100 mg) as a colourless oil. LC-MS: tR=1.03 min, [M+1]+=356.23.

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 0.30 mmol, 67 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
reactant | TBTU | 0.33 mmol, 106 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyl-diisopropylamine | 0.99 mmol, 169 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-aminomethyl-2,6-dimethyl-phenol | 0.30 mmol, 45 mg | NCC1=CC(=C(C(=C1)C)O)C | C9H13NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | formic acid | 0.2 mL | C(=O)O | CH2O2
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-hydroxy-3,5-dimethyl-benzylamide | 100 mg | OC1=C(C=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1C)C | C21H25NO2S
